US06541486B1
The following components were reacted according to General Procedure 1, above: 3-nitro-1,2-phenylenediamine (0.50 g; 3.26 mmoles) 2,3-diaminobenzoic acid (0.40 g; 3.26 mmoles), diethyl malonimidate dihydrochloride (1.1 eq.; 0.83 g; 3.60 mmoles) and acetic acid (25 mL). The crude mixture of three compounds was then reduced according to General Procedure 2, above. The crude solid was taken up in 10 mL of dilute HCl, purified by preparative HPLC (2 to 40% acetonitrile (with 0.1% TFA) over 60 minutes) and converted to the HCl salt by three freeze drying cycles with dilute HCl. This procedure gave 0.103 g of pure 2-[(4-amino-1H-benzimidazol-2-yl)methyl]-1H-benzimidazole-4-carboxylic acid dihydrochloride in 8% yield. It had MS: m/z=308.2 [M+1] amu and gave one peak on HPLC at both 210 and 280 nm (10.20 minutes using the JWTFACN gradient).

reactant | 3-nitro-1,2-phenylenediamine | 3.26 mmoles, 0.50 g | [N+](=O)([O-])C=1C(=C(C=CC1)N)N | C6H7N3O2
reactant | 2,3-diaminobenzoic acid | 3.26 mmoles, 0.40 g | NC1=C(C(=O)O)C=CC=C1N | C7H8N2O2
reactant | diethyl malonimidate dihydrochloride | 3.60 mmoles, 0.83 g, 1.1 eq. | Cl.Cl.C(CC(OCC)=N)(OCC)=N
reactant | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
solvent | HCl | 10 mL | Cl | ClH
product | 2-[(4-amino-1H-benzimidazol-2-yl)methyl]-1H-benzimidazole-4-carboxylic acid dihydrochloride | 0.103 g, 8% yield | Cl.Cl.NC1=CC=CC=2NC(=NC21)CC2=NC1=C(N2)C=CC=C1C(=O)O | InChI=1S/C16H13N5O2.2ClH/c17-9-4-2-6-11-15(9)21-13(19-11)7-12-18-10-5-1-3-8(16(22)23)14(10)20-12;;/h1-6H,7,17H2,(H,18,20)(H,19,21)(H,22,23);2*1H
